US07507838B2
A stirred solution of tartaric acid bis(acetonide) prepared as in Example 1 (1.0 kg) in tetrahydrofuran (5.0 L) was cooled to −40° C. A chilled 0.75 M solution of potassium tert-butoxide in tetrahydrofuran (7.0 L) was added and stirring was continued for 15 min at −40° C. In a separate reactor, a 1.2 M solution of HCl was generated by reaction of acetyl chloride (0.50 L) with methanol (0.31 L) in tetrahydrofuran (5.0 L) 0-5° C. The original reaction is quenched by addition of the chilled HCl solution. The mixture was allowed to warm to room temperature with stirring over the course of 1 h, after which the THF content was reduced to <2% by vacuum distillation. Ethyl acetate (20 L) was added and the mixture was concentrated to 10 L. Deionized water (8.0 L) was added and the pH was adjusted to <2.5 with 1 N HCl. The organic phase was separated and the aqueous phase was further extracted with ethyl acetate (5.0 L). The combined organics were concentrated to a volume of 3 L by vacuum distillation whereupon heptane (6.0 L) was added. The product mixture was vigorously agitated at 15° C. for 1 h after which the crystalline product was collected by filtration and washed with heptane (2×2.0 L). Vacuum drying at 50° C. afforded Z-2,2-dimethyl-5-carboxymethylene-1,3-dioxolan-4-one (577 g, 77%) as fine white needles. NMR and HPLC analysis indicated the product purity was 100%.

reactant | tartaric acid bis(acetonide) | [CH2-]C(=O)C.[CH2-]C(=O)C.C(C(O)C(O)C(=O)O)(=O)O
reactant | potassium tert-butoxide | CC(C)([O-])C.[K+]
reactant | HCl | Cl | ClH
reactant | acetyl chloride | 0.50 L | C(C)(=O)Cl | C2H3ClO
solvent | tetrahydrofuran | 5.0 L | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 7.0 L | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5.0 L | O1CCCC1 | C4H8O
solvent | methanol | 0.31 L | CO | CH4O
product | Z-2,2-dimethyl-5-carboxymethylene-1,3-dioxolan-4-one | 577 g, 77% | CC1(O\C(\C(O1)=O)=C/C(=O)O)C | C7H8O5
